US05658491
Preparation of 5-Octyl-2-[4-(5-(2-(nonafluorobutoxy)-2,2-difluoroethoxy)pentyloxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyl-2-(4-hydroxyphenyl)pyrimidine (6.0 g, 21 mmol) and 5-(2-(nonafluorobutoxy)-2,2-difluoroethoxy)-1-bromopentane (12 g, 23 mmol; prepared by combining 1,5-dibromopentane with 2-(nonafluorobutoxy)-2,2-difluoroethanol). After refluxing overnight, the resulting crude product was isolated by filtration and further purified by recrystallization from ethanol, followed by Kugelrohr distillation (b.p. 190°-200° C. at 0.1 torr; yield of 6.4 g).

reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 21 mmol, 6.0 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 5-(2-(nonafluorobutoxy)-2,2-difluoroethoxy)-1-bromopentane | 23 mmol, 12 g | FC(C(C(OC(COCCCCCBr)(F)F)(F)F)(F)F)(C(F)(F)F)F | C11H12BrF11O2
product | 5-Octyl-2-[4-(5-(2-(nonafluorobutoxy)-2,2-difluoroethoxy)pentyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCOCC(F)(F)OC(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C29H35F11N2O3
